US05877199
9-Benzyl-1-methylthiocarbazole-2-acetamide
An excess of a solution of diazomethane in diethyl ether was added to a solution of 150 mg of 9-benzyl-1-methylthiocarbazol-2-acetic acid, as obtained in Example 5, in 3 ml of diethyl ether. The resulting reaction mixture was stirred for 10 minutes at room temperature and then glacial acetic acid was added. The reaction mixture was next concentrated by evaporation under reduced pressure. 10 ml of saturated methanolic ammonia was added to a solution of the resulting residue in 5 ml of methanol, and the reaction mixture was stirred for 7 days at room temperature. After this time, the reaction mixture was concentrated by evaporation under reduced pressure and the resulting residue was subjected to column chromatography using 400 mg of silica gel using, as eluent, a 4:1 by volume mixture of hexane and ethyl acetate to yield 131 mg of the title compound as an amorphous solid.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 9-benzyl-1-methylthiocarbazol-2-acetic acid | 150 mg | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=CC(=C(C12)SC)CC(=O)O | C22H19NO2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
product | 9-Benzyl-1-methylthiocarbazole-2-acetamide | 131 mg | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=CC(=C(C12)SC)CC(=O)N | C22H20N2OS
